US06627651B1
To 3-methoxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene (20.32 mg, 107 mmol) dissolved in dimethyl carbonate (500 ml) was added sodium methoxide (28.85 g, 534 mmol), and the resulting mixture was stirred at reflux with heating (110° C.) for 6 hours. The reaction mixture was mixed with 2 N hydrochloric acid (320 ml) under ice cooling and was concentrated under reduced pressure to remove the organic solvent, and then the aqueous layer was extracted with ethyl acetate (200 ml, 150 ml×3). The combined organic layers were dried with anhydrous magnesium sulfate and were then concentrated under reduced pressure, and the residue was subjected to column chromatography (silica gel: 150 g, ethyl acetate/hexane=1/19). The objective fractions were concentrated under reduced pressure to obtain methyl 3-methoxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylate (24.20 g, 97.5 mmol, 91%).

reactant | 3-methoxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene | 107 mmol, 20.32 mg | COC1=CC2=C(CCCCC2=O)C=C1 | C12H14O2
reactant | sodium methoxide | 534 mmol, 28.85 g | C[O-].[Na+]
reactant | hydrochloric acid | 2 N, 320 ml | Cl | ClH
reactant | dimethyl carbonate | 500 ml | C(OC)(OC)=O | C3H6O3
product | methyl 3-methoxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylate | 97.5 mmol, 24.20 g, 91% | COC1=CC2=C(CCCC(C2=O)C(=O)OC)C=C1 | C14H16O4
